US05223506
Using the procedure of Example 1, 6-methoxyindan-1-one (162 mg, 1 mmol) is reacted with 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine (255 mg, 1 mmol) to yields 7-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline (130 mg, 44.6% of theory).

reactant | 6-methoxyindan-1-one | 1 mmol, 162 mg | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | 6[[(4-methylphenyl)imino]methyl]-1,3-benzodioxol-5-amine | 1 mmol, 255 mg | CC1=CC=C(C=C1)N=CC=1C(=CC2=C(OCO2)C1)N | C15H14N2O2
product | 7-methoxy-10H-1,3-dioxolo[4,5-g]indeno[1,2-b]quinoline | 130 mg, 44.6% | COC=1C=CC=2CC=3C(=NC=4C=C5C(=CC4C3)OCO5)C2C1 | C18H13NO3
